US08426437B2
In a sealed tube, 601 mg (1.8 mmol) of 7-fluoro-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate cocrystallized with one equivalent of acetic acid is dissolved in 2.4 mL (36 mmol) of chlorosulfonic acid. The reaction mixture is placed on an oil bath heated beforehand to 85° C. for 2 hours, cooled on an ice bath then poured slowly onto crushed ice. The solid is filtered, rinsed with water, diisopropyl ether and pentane then dried under vacuum to give 580 mg (93%) of 8-chlorosulfonyl-7-fluoro-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid in the form of a brown solid.

reactant | 7-fluoro-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 1.8 mmol, 601 mg | FC=1C=CC=2C3=C(C(NC2C1)=O)NC=C3.C(C)C(=O)[O-]
reactant | acetic acid | one equivalent | C(C)(=O)O | C2H4O2
reactant | chlorosulfonic acid | 36 mmol, 2.4 mL | ClS(=O)(=O)O | ClHO3S
product | 8-chlorosulfonyl-7-fluoro-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 580 mg, 93% | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1F)=O)NC=C3C(=O)O | C12H6ClFN2O5S
